US08030340B2
2-Amino-1-[2-methoxypyridin-4-yl]butan 1-ol
Ammonium formate (2.5 g, 40 mmol) and palladium on charcoal (10%, 390 mg) is added to a solution of 1-(2-methoxypyridin-4-yl)-2-nitrobutan-1-ol (1.7 g, 7.5 mmol) in 38 ml THF and 38 ml methanol. The reaction mixture is stirred overnight at room temperature, filtered through a path of cellites and concentrated. Yield 620 mg of a racemic mixture of two diastereomers, 42%.

reactant | Ammonium formate | 40 mmol, 2.5 g | C(=O)[O-].[NH4+]
reactant | 1-(2-methoxypyridin-4-yl)-2-nitrobutan-1-ol | 7.5 mmol, 1.7 g | COC1=NC=CC(=C1)C(C(CC)[N+](=O)[O-])O | C10H14N2O4
catalyst | palladium on charcoal | 390 mg | [Pd] | Pd
solvent | THF | 38 ml | C1CCOC1 | C4H8O
solvent | methanol | 38 ml | CO | CH4O
product | 2-Amino-1-[2-methoxypyridin-4-yl]butan 1-ol | NC(C(O)C1=CC(=NC=C1)OC)CC | C10H16N2O2
